CIRCUIT
*-----------------------------------------------------------------------------
*
* To use a subcircuit, the name must begin with 'X'.  For example:
* X1 1 2 3 4 5 uA741
*
* connections:   non-inverting input
*                |  inverting input
*                |  |  positive power supply
*                |  |  |  negative power supply
*                |  |  |  |  output
*                |  |  |  |  |
.subckt uA741    1  2  3  4  5
*
  c1   11 12 8.661E-12
  c2    6  7 30.00E-12
  dc    5 53 dx
  de   54  5 dx
  dlp  90 91 dx
  dln  92 90 dx
  dp    4  3 dx
  egnd 99  0 poly(2) (3,0) (4,0) 0 .5 .5
  fb    7 99 poly(5) vb vc ve vlp vln 0 10.61E6 -10E6 10E6 10E6 -10E6
  ga    6  0 11 12 188.5E-6
  gcm   0  6 10 99 5.961E-9
  iee  10  4 dc 15.16E-6
  hlim 90  0 vlim 1K
  q1   11  2 13 qx
  q2   12  1 14 qx
  r2    6  9 100.0E3
  rc1   3 11 5.305E3
  rc2   3 12 5.305E3
  re1  13 10 1.836E3
  re2  14 10 1.836E3
  ree  10 99 13.19E6
  ro1   8  5 50
  ro2   7 99 100
  rp    3  4 18.16E3
  vb    9  0 dc 0
  vc    3 53 dc 1
  ve   54  4 dc 1
  vlim  7  8 dc 0
  vlp  91  0 dc 40
  vln   0 92 dc 40
.model dx D(Is=800.0E-18 Rs=1)
.model qx NPN(Is=800.0E-18 Bf=93.75)
.ends



.param Ci_val = 1E-6;
.param Ri_val = 2.4k;
.param R4_val = 1k;
.param R3_val = 100k;
.param Ro_val = 0.01k;
.param Co_val = 1E-6;

.csparam Ci_val = {Ci_val};
.csparam Ri_val = {Ri_val};
.csparam R4_val = {R4_val};
.csparam R3_val = {R3_val};
.csparam Ro_val = {Ro_val};
.csparam Co_val = {Co_val};

.options savecurrents

Vcc vcc 0 5.0
Vee vee 0 -5.0
Vin in 0 0 ac 1.0 sin(0 10m 1k)


X1 ninv_in inv_in vcc vee out uA741

*Input filter

Ci in ninv_in Ci_val
Ri ninv_in 0 Ri_val

*Coupling resistances

R4 inv_in 0 R4_val
R3 out inv_in R3_val

*Output filter

Ro out outr Ro_val
Co outr 0 Co_val

.op
.end

.control

*makes plots in color
set hcopypscolor=0
set color0=white
set color1=black
set color2=red
set color3=blue
set color4=violet
set color5=rgb:3/8/0
set color6=rgb:4/0/0

* time analysis
tran 1e-5 1e-2
plot v(outr) v(in)
echo "voin_FIG"
hardcopy voin.ps v(outr) v(in)
echo "voinout_FIG"

*frequency analysis
ac dec 10 .01 100MEG
plot 'vdb(outr)-vdb(in)'
plot 'vp(outr)-vp(in)'

echo "vo1_FIG"
hardcopy vo1.ps 'vdb(outr)-vdb(in)'
echo "vo1out_FIG"

echo "voph_FIG"
hardcopy voph.ps 'vp(outr)-vp(in)'
echo "vophout_FIG"

*Frequency Analysis Measurements
let gain = 'vdb(outr)-vdb(in)';

meas ac max_gain FIND gain AT=1000;

let bound = 'max_gain-3';

meas ac lowf WHEN gain=bond CROSS=1;
meas ac highf WHEN gain=bond CROSS=LAST;


let Bandwidth = '(highf-lowf)*2*pi';
let LowerCutOffF = lowf*2*pi;
let HigherCutOffF = highf*2*pi;
let MeanFreq = 'sqrt(LowerCutOffF*HigherCutOffF)';
let FreqDeviation = 'abs(MeanFreq - 1000*2*pi)'
let BandpassGain = '10^(vecmax(gain)/20)';
let BandpassGaindB = 'vecmax(gain)';
let GainDeviation = abs(BandpassGaindB-40);

echo "SIM_RESULTS_TAB"
print LowerCutOffF;
print HigherCutOffF;
print Bandwidth;
print MeanFreq;
print BandpassGain;
print BandpassGaindB;
print GainDeviation;
echo "SIM_RESULTS_END"

let OPAMPcost = '(8.661E-12 + 30.00E-12)*1000000 + 5*0.1 + 2*0.1 + (100E3 + 5.305E3 + 5.305E3 + 1.836E3 + 1.863E3 + 13.19E6 + 50 + 100 + 18.16E3)/(1000)' 

*OPAMPcost = capacitors + diodes + transistors + resistors

let resist = '(Ri_val + R4_val + R3_val + Ro_val)/1000';
let capacit = '(Ci_val + Co_val)*1000000'
let Cost = 'OPAMPcost + resist + capacit'

let Merit = '1/(Cost * (GainDeviation + FreqDeviation + 10^-6))'

echo "MERIT_TAB"
print Cost;
print OPAMPcost;
print FreqDeviation;
print GainDeviation;
print Merit;
echo "MERIT_END"

*Input Impedance
let Zi = 'v(in)[40]/(-vin#branch[40])/1000';
let ModuleZi = 'abs(Zi)'

echo "Zi_TAB"
print Zi;
print ModuleZi;
echo "Zi_END"

.endc



